US08124649B2
To 3-((5-bromofuran-2-yl)methylene)-5-chloroindolin-2-one (50 mg, 0.155 mmol) in dioxane/water (5% water) was added Cs2CO3 (152 mg, 0.466 mmol) and 4-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)ethyl)morpholine (62 mg, 0.186 mmol). The mixture was degassed with nitrogen for 5 minutes then heated in microwave for 20 minutes at 120° C. The solution was diluted with water and the solid formed was isolated by filtration. The solid was purified by HPLC to yield 5-chloro-3-((5-(4-(2-morpholinoethoxy)phenyl)furan-2-yl)methylene)indolin-2-one. LCMS (M+1=451).

reactant | 3-((5-bromofuran-2-yl)methylene)-5-chloroindolin-2-one | 0.155 mmol, 50 mg | BrC1=CC=C(O1)C=C1C(NC2=CC=C(C=C12)Cl)=O | C13H7BrClNO2
reactant | Cs2CO3 | 0.466 mmol, 152 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)ethyl)morpholine | 0.186 mmol, 62 mg | CC1(OB(OC1(C)C)C1=CC=C(OCCN2CCOCC2)C=C1)C | C18H28BNO4
solvent | dioxane water | O1CCOCC1.O
product | 5-chloro-3-((5-(4-(2-morpholinoethoxy)phenyl)furan-2-yl)methylene)indolin-2-one | ClC=1C=C2C(C(NC2=CC1)=O)=CC=1OC(=CC1)C1=CC=C(C=C1)OCCN1CCOCC1 | C25H23ClN2O4
